US05336614
Preparation of 2×IMDM
To the Iscove's Modified Dulbecco's Medium is added sodium bicarbonate (0.6%), Modified Eagles Medium Non-Essential Amino Acid Solution (200 μM), sodium pyruvate (2.0 mM), L-glutamine (4 mM) and antibiotics as required (in the following experiments Penicillin/Streptomycin (200 U/ml each)).

reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium pyruvate | 2.0 mM | C(C(=O)C)(=O)[O-].[Na+]
reactant | L-glutamine | 4 mM | N[C@@H](CCC(N)=O)C(=O)O | C5H10N2O3
reactant | Penicillin Streptomycin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)[O-])C.[K+].C[C@H]1[C@@]([C@H]([C@@H](O1)O[C@@H]2[C@H]([C@@H]([C@H]([C@@H]([C@H]2O)O)NC(=N)N)O)NC(=N)N)O[C@H]3[C@H]([C@@H]([C@H]([C@@H](O3)CO)O)O)NC)(C=O)O
product | IMDM | CC1=CC=C(C=C1)CC2=CC=C(C=C2)N=C=O | C15H13NO
